US07622504B2
Preparation of 2-(2-chloro-5-(difluoromethoxy)phenyl-3-hydroxypropanenitrile
A 25 mL flask with a stir bar was charged with 3.0 g (13.8 mmol) of 2-(2-chloro-5-(difluoromethoxy)phenyl)ethanenitrile, 12 mL of ethanol and 1.34 mL of 37% formaldehyde solution. The mixture was stirred and a mixture of 115 μL of 40% Triton B in methanol and 38 μL of DBU was added. After a very mild exotherm, all solids dissolved. After 50 minutes at ambient temperature, the reaction was quenched by the addition of 0.5 mL of 3 N HCL. The mixture was filtered to remove floc, diluted with 2 volumes of water and extracted with butyl chloride. The extracts were water washed and stripped to an oil. This was chromatographed on 35 g of silica gel eluting with 5%→60% EtOAc in hexane to recover 2.2 g (65% yield.) of the desired product, Rf 0.18 (silica gel, EtOAc:hexane=1:4).

reactant | 2-(2-chloro-5-(difluoromethoxy)phenyl)ethanenitrile | 13.8 mmol, 3.0 g | ClC1=C(C=C(C=C1)OC(F)F)CC#N | C9H6ClF2NO
reactant | ethanol | 12 mL | C(C)O | C2H6O
reactant | formaldehyde | 1.34 mL | C=O | CH2O
reactant | DBU | 38 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | methanol | CO | CH4O
product | 2-chloro-5-(difluoromethoxy)phenyl-3-hydroxypropanenitrile | 65% yield | ClC1=C(C=C(C=C1)OC(F)F)C(C#N)CO | C10H8ClF2NO2
